US08008307B2
Step b: tert-butyl rel-{(1R,2R)-2-[(dimethylamino)carbonyl]-2,3-dihydro-1H-inden-1-yl}-carbamate
To tert-butyl rel-(2aR,7bR)-2-oxo-2,2a,3,7b-tetrahydro-1H-indeno[1,2-b]azete-1-carboxylate (200 mg, 0.77 mmol) was added 2.00 M dimethylamine in THF (1.90 mL, 3.80 mmol) in the sealed tube, and the mixture was microwaved at 120° C. for 30 minutes. The reaction mixture was concentrated under vacuum, and then the residue was washed with small amount of hexane to give the title compound (226 mg, 91%) as a white solid.

reactant | tert-butyl rel-(2aR,7bR)-2-oxo-2,2a,3,7b-tetrahydro-1H-indeno[1,2-b]azete-1-carboxylate | 0.77 mmol, 200 mg | O=C1[C@H]2[C@@H](N1C(=O)OC(C)(C)C)C1=CC=CC=C1C2 | C15H17NO3
reactant | dimethylamine | 2.00 M | CNC | C2H7N
reactant | THF | 3.80 mmol, 1.90 mL | C1CCOC1 | C4H8O
product | tert-butyl rel-{(1R,2R)-2-[(dimethylamino)carbonyl]-2,3-dihydro-1H-inden-1-yl}-carbamate | 226 mg, 91% | CN(C(=O)[C@H]1[C@H](C2=CC=CC=C2C1)NC(OC(C)(C)C)=O)C | C17H24N2O3
